US04353827
9.54 g (30 mmol) of (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylic acid and 6.32 g (39 mmol) of N,N'-carbonyldiimidazole in 50 ml of dry dimethylformamide are stirred at room temperature for 1 hour and at 50° for 1 hour. Subsequently, the mixture is poured into about 300 ml of water, the precipitated material is filtered off under suction, washed with water and dried to constant weight. There is obtained (S)-1-[(8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl)carbonyl]imidazole of melting point 240°-241.5°.

reactant | (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylic acid | 30 mmol, 9.54 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)O)CCC1)=O | C15H12ClN3O3
reactant | water | about 300 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (S)-1-[(8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl)carbonyl]imidazole | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)N3C=NC=C3)CCC1)=O | C18H14ClN5O2
